US08563577B2
3-(Chloromethyl)-5-(pyridin-4-yl)-1,2,4-oxadiazole (I51) (45.0 mg, 0.23 mmol) was added to a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (50 mg, 0.15 mmol) in EtOAc (2 ml). The reaction mixture was heated under microwave irradiation at 80° C. for 3 hours. The solvent was evaporated, and the residue was triturated with Et2O, filtered and dried. The product was purified by flash-chromatography (DCM/MeOH=97/3 to 9/1) and then by preparative HPLC (eluents: CH3CN/H2O) to obtain (R)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-((5-(pyridin-4-yl)-1,2,4-oxadiazol-3-yl)methyl)-1-azoniabicyclo[2.2.2]octane chloride (32.3 mg, 29.0% yield).

reactant | 3-(Chloromethyl)-5-(pyridin-4-yl)-1,2,4-oxadiazole | 0.23 mmol, 45.0 mg | ClCC1=NOC(=N1)C1=CC=NC=C1 | C8H6ClN3O
reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.15 mmol, 50 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | CH3CN H2O | CC#N.O
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (R)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-((5-(pyridin-4-yl)-1,2,4-oxadiazol-3-yl)methyl)-1-azoniabicyclo[2.2.2]octane chloride | 32.3 mg, 29.0% yield | [Cl-].C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1C[N+]2(CCC1CC2)CC2=NOC(=N2)C2=CC=NC=C2)NC2=CC=CC=C2 | InChI=1S/C29H30N5O3.ClH/c35-29(27(22-7-3-1-4-8-22)31-24-9-5-2-6-10-24)36-25-19-34(17-13-21(25)14-18-34)20-26-32-28(37-33-26)23-11-15-30-16-12-23;/h1-12,15-16,21,25,27,31H,13-14,17-20H2;1H/q+1;/p-1/t21?,25-,27+,34?;/m0./s1
